US08629157B2
Synthesis of (2S,4R)-1-(4-chloro-phenyl)-4-hydroxy-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide
(2S,4R)-4-tert-Butoxy-1-(4-chloro-phenyl)-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide (45 mg, 0.107 mmol) is dissolved in trifluoroacetic acid (0.5 mL, 6.49 mmol) at room temperature and the reaction is stirred at room temperature for 1 hour. The reaction is concentrated under reduced pressure and purification by chromatography on silica eluting with ethyl acetate/hexanes provides the title compound. ESI m/z 364 [M+H+].

reactant | (2S,4R)-4-tert-Butoxy-1-(4-chloro-phenyl)-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | 0.107 mmol, 45 mg | C(C)(C)(C)C1=CC(=NO1)NC(=O)[C@H]1N(C[C@@H](C1)OC(C)(C)C)C1=CC=C(C=C1)Cl | C22H30ClN3O3
reactant | trifluoroacetic acid | 6.49 mmol, 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (2S,4R)-1-(4-chloro-phenyl)-4-hydroxy-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | C(C)(C)(C)C1=CC(=NO1)NC(=O)[C@H]1N(C[C@@H](C1)O)C1=CC=C(C=C1)Cl | C18H22ClN3O3
